US06333358B1
To a solution of 1.64 g of 2-isopropoxybenzaldehyde in 10 ml of methanol was added 1.85 g of 2-aminodiphenyl ether, and then the mixture was stirred at room temperature for 30 minutes and cooled on ice-water. To the cooled reaction solution was gradually added 1.50 g of sodium borohydride, followed by stirring under ice-cooling for 30 minutes and then at room temperature for 30 minutes. An aqueous acetic acid solution (1.5 ml of acetic acid-30 ml of water) was added dropwise to the reaction solution, followed by stirring at room temperature for 10 minutes. After extraction with ethyl acetate, the extract was washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:25) to give 2.65 g of N-(2-isopropoxybenzyl)-2-phenoxyaniline as an oil.

reactant | 2-isopropoxybenzaldehyde | 1.64 g | C(C)(C)OC1=C(C=O)C=CC=C1 | C10H12O2
reactant | 2-aminodiphenyl ether | 1.85 g | C1=CC=C(C=C1)OC2=CC=CC=C2N | C12H11NO
reactant | sodium borohydride | 1.50 g | [BH4-].[Na+]
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | N-(2-isopropoxybenzyl)-2-phenoxyaniline | 2.65 g | C(C)(C)OC1=C(CNC2=C(C=CC=C2)OC2=CC=CC=C2)C=CC=C1 | C22H23NO2
